US09302991B2
<Step-2>:5-methyl-2-(2,2,2-trifluoroethoxy)pyridine 1-oxide
A mixture of 5-methyl-2-(2,2,2-trifluoroethoxy)pyridine (0.55 g, 2.88 mmol, Step-1) and m-chloroperoxybenzoic acid (1.66 g, 5.77 mmol) in dichloromethane (50 mL) is stirred at room temperature for 20 hours. The reaction mixture is poured into 2M sodium hydroxide and extracted with ethyl acetate and dried over sodium sulfate and concentrated in vacuo. The residue is purified by column chromatography on silica gel eluting with ethyl acetate/methanol (10:1) to give 0.14 g (24% yield) of the title compound as a white solid.

reactant | 5-methyl-2-(2,2,2-trifluoroethoxy)pyridine | 2.88 mmol, 0.55 g | CC=1C=CC(=NC1)OCC(F)(F)F | C8H8F3NO
reactant | m-chloroperoxybenzoic acid | 5.77 mmol, 1.66 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5-methyl-2-(2,2,2-trifluoroethoxy)pyridine 1-oxide | 0.14 g, 24% yield | CC=1C=CC(=[N+](C1)[O-])OCC(F)(F)F | C8H8F3NO2
